US08492589B2
A solution of 2-(3-(3-((2,6-dimethylphenyl)ethynyl)phenyl)propyl)isoindoline-1,3-dione (0.094 g, 0.24 mmol) and hydrazine hydrate (0.038 g, 0.75 mmol) in dry EtOH (5 mL) was heated under reflux for 3 h. Additional hydrazine hydrate (0.038 g, 0.75 mmol) was added and heating continued for a further 4 h. The solvent was removed under reduced pressure and the residue was sonicated in a mixture of hexanes and aqueous Na2SO4. The mixture was filtered through Celite and washed with hexanes. The organic layer was concentrated under reduced pressure. Purification by flash chromatography (10:1:9 EtOAc/7 M NH3 in MeOH/hexanes)gave 3-(3-((2,6-dimethylphenyl)ethynyl)phenyl)propan-1-amine as a colorless oil. Yield (0.015 g, 25%): 1H NMR (400 MHz, DMSO-d6) δ 7.32-7.39 (m, 3H), 7.25 (m, 1H), 7.13-7.22 (m, 3H), 2.65 (t, J=7.6 Hz, 2H), 2.54 (t, J=7.2 Hz, 2H), 2.46 (s, 6H), 1.61-1.69 (m, 2H), 1.40 (br s, 2H).

reactant | 2-(3-(3-((2,6-dimethylphenyl)ethynyl)phenyl)propyl)isoindoline-1,3-dione | 0.24 mmol, 0.094 g | CC1=C(C(=CC=C1)C)C#CC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C27H23NO2
reactant | hydrazine hydrate | 0.75 mmol, 0.038 g | O.NN
reactant | hydrazine hydrate | 0.75 mmol, 0.038 g | O.NN
solvent | EtOH | 5 mL | CCO | C2H6O
product | 3-(3-((2,6-dimethylphenyl)ethynyl)phenyl)propan-1-amine | CC1=C(C(=CC=C1)C)C#CC=1C=C(C=CC1)CCCN | C19H21N
